US06211227B1
In a mixed solvent of concentrated hydrochloric acid (15 ml) and methanol (15 ml), 9-acetamido-2-methoxy-6,11-dihydrodibenz[b,e]oxepin-11-one obtained in Reference Example 10 (0.93 g, 3.1 mmol) was heated under reflux for one hour. After the reaction was completed, substantially the same procedure as in Reference Example 5 was repeated to give 9-amino-2-methoxy-6,11-dihydrodibenz[b,e]oxepin-11-one (yield: 74%).

reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | 9-acetamido-2-methoxy-6,11-dihydrodibenz[b,e]oxepin-11-one | C(C)(=O)NC=1C=CC2=C(C(C3=C(OC2)C=CC(=C3)OC)=O)C1 | C17H15NO4
solvent | methanol | 15 ml | CO | CH4O
product | 9-amino-2-methoxy-6,11-dihydrodibenz[b,e]oxepin-11-one | yield: 74% | NC=1C=CC2=C(C(C3=C(OC2)C=CC(=C3)OC)=O)C1 | C15H13NO3
